US08877742B2
6-bromo-3-chloro-1H-indole
A mixture of 6-bromo-1H-indole (850 mg, 4.34 mmol) and NCS (593 mg, 4.44 mmol) in DCM (17 mL) was stirred at 0° C. for 1.5 hour. The mixture was partitioned between saturated aqueous ammonium chloride (25 mL) and ethyl acetate (150 mL). The organic phase was separated, washed with brine (25 mL), dried with anhydrous magnesium sulfate, filtered and evaporated to dryness to give the title compound (894 mg). LCMS (A): m/z (M+H)+ 230/232, C8H5BrClN requires 229/231 (acidic).

reactant | 6-bromo-1H-indole | 4.34 mmol, 850 mg | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
reactant | NCS | 4.44 mmol, 593 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | DCM | 17 mL | C(Cl)Cl | CH2Cl2
product | 6-bromo-3-chloro-1H-indole | 894 mg | BrC1=CC=C2C(=CNC2=C1)Cl | C8H5BrClN
